US04956416
3-(1,4,4,6-Tetramethyl-2,3,7-trioxacycloheptyl)propionhydrazide was prepared by reacting 3-(ethoxycarbonylethyl)-3,5,7,7-tetramethyl-1,2,4-trioxacycloheptane with 9 molar excess of 54% aqueous hydrazine. 3-(Ethoxycarbonylethyl)-3,5,7,7-tetramethyl-1,2,4-trioxacycloheptane was initially prepared in an assay of 89% and a corrected yield of 88% by reacting ethyl levulinate with 10% molar excess of 3-hydroxy-1,1-dimethylbutyl hydroperoxide using 70% aqueous sulfuric acid as a catalyst/dehydrating agent.

reactant | 3-(ethoxycarbonylethyl)-3,5,7,7-tetramethyl-1,2,4-trioxacycloheptane | C(C)OC(=O)CCC1(OOC(CC(O1)C)(C)C)C | C13H24O5
reactant | hydrazine | NN | H4N2
reactant | ethyl levulinate | C(CCC(=O)C)(=O)OCC | C7H12O3
catalyst | 3-hydroxy-1,1-dimethylbutyl hydroperoxide | OC(CC(C)(C)OO)C | C6H14O3
product | 3-(1,4,4,6-Tetramethyl-2,3,7-trioxacycloheptyl)propionhydrazide | yield of 88% | CC1(OOC(CC(O1)C)(C)C)CCC(=O)NN | C11H22N2O4
